US06960662B2
The reaction mixture was stirred at 100° C. for a total of 60 hours, at which time RP-HPLC revealed that all dimers had been converted to 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one. The reaction mixture was cooled to 45° C. and acidified by addition of 300 mL of 6N hydrochloric acid (the acidification was exothermic). The acidic solution was stirred for 4 hours at 24° C., during which time the product had precipitated as a bright yellow solid. The precipitate was filtered and washed with 200 mL of 6N hydrochloric acid, with 250 mL of water, with 800 mL of acetonitrile, and finally with 300 mL of methyl tert-butyl ether. The precipitate was dried in a vacuum oven at 40° C. for 12 hours to provide 303 g (92% yield) of 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride; mp 295-300° C. (dec). Mass Spec (APCI) 439.89 m/z.

reactant | 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one | N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C22H21N5O3
reactant | hydrochloric acid | 6N, 300 mL | Cl | ClH
product | 2-(pyridin-4-ylamino)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 303 g, 92% yield | Cl.N1=CC=C(C=C1)NC=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | InChI=1S/C22H21N5O3.ClH/c1-4-27-20-15(13-24-22(26-20)25-16-5-7-23-8-6-16)11-19(21(27)28)14-9-17(29-2)12-18(10-14)30-3;/h5-13H,4H2,1-3H3,(H,23,24,25,26);1H
